US06828317B2
Acetic acid 2-{4-[5(S)-(acetylaminomethyl)-2-oxo-oxazolidin-3-yl]-2-fluorophenyl}-5-oxo-5,6-dihydro-4H-[1,3,4]thiadiazin-6-yl ester
Hydrogen peroxide (30% aqueous sol, 0.0558 ml, 0.546 mmol) is added to N-{3-[3-Fluoro-4-(5-oxo-5,6-dihydro-4H-[1,3,4]thiadiazin-2-yl)-phenyl]-2-oxo-oxazolidin-5(S)-ylmethyl}-acetamide (0.100 g, 0.273 mmol) in acetic acid (2 ml) and is heated at 65° C. overnight. The reaction mixture is evaporated to dryness and the residue is purified by PTLC (10% MeOH/DCM) to give white solid (0.089 g, 82%); 1HNMR (300 MHz, DMSO-d6) δ 1.82 (s, 3H), 2.09 (s, 3H), 3.41 (t, J=5.5 Hz, 2H), 3.56 (dd, J=6.6, 9.1 Hz, 1H), 4.14 (t, J=9.1 Hz, 1H), 4.70-4.80 (m, 1H), 7.42 (dd, J=2.2, 8.8 Hz, 1H), 7.59 (dd, J=2.2, 14 Hz, 1H), 7.65 (t, J=8.5 Hz, 1H), 8.25 (t, J=5.8 Hz, 1H); mp 174-7; MS (m/z): [M+H]+=425.

reactant | Hydrogen peroxide | 0.546 mmol, 0.0558 ml | OO | H2O2
reactant | N-{3-[3-Fluoro-4-(5-oxo-5,6-dihydro-4H-[1,3,4]thiadiazin-2-yl)-phenyl]-2-oxo-oxazolidin-5(S)-ylmethyl}-acetamide | 0.273 mmol, 0.100 g | FC=1C=C(C=CC1C=1SCC(NN1)=O)N1C(O[C@H](C1)CNC(C)=O)=O | C15H15FN4O4S
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | Acetic acid 2-{4-[5(S)-(acetylaminomethyl)-2-oxo-oxazolidin-3-yl]-2-fluorophenyl}-5-oxo-5,6-dihydro-4H-[1,3,4]thiadiazin-6-yl ester | 0.089 g, 82% | C(C)(=O)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C=1SC(C(NN1)=O)OC(C)=O)F | C17H17FN4O6S
